US06599917B1
e) 3-(2-Thienylmethyl)-2-pyridyl Trifluoromethanesulfonate
10 ml of 47% hydrobromic acid was added to 216 mg of 2-methoxy-3-(2-thienylmethyl)pyridine, followed by heating under stirring for 4 hours in an oil bath kept at 80° C. After cooling as it was, the reaction mixture was neutralized by adding potassium carbonate thereto carefully. Water was added thereto, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic phase was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed, to give 140 mg of a crude product. A mixture of 140 mg of the crude product, 314 mg of N-phenyltrifluoromethanesulfonimide, 153 μl of triethylamine, 27 mg of 4-dimethylaminopyridine and 5.0 ml of dichloromethane was stirred at room temperature for 3 hours. Water was added to the reaction solution and extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane and then with hexane/ethyl acetate (40:1), to give 89 mg of the target compound.

reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | 2-methoxy-3-(2-thienylmethyl)pyridine | 216 mg | COC1=NC=CC=C1CC=1SC=CC1 | C11H11NOS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N-phenyltrifluoromethanesulfonimide | 314 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
catalyst | 4-dimethylaminopyridine | 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | triethylamine | 153 μl | C(C)N(CC)CC | C6H15N
product | 3-(2-Thienylmethyl)-2-pyridyl Trifluoromethanesulfonate | 89 mg | FC(S(=O)(=O)OC1=NC=CC=C1CC=1SC=CC1)(F)F | C11H8F3NO3S2
